*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2712SP-10N
* Inductance = 10nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2712SP-10N_freq port1 port2 PARAMS: Cpar=0.232pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=5.5
+ R2=0.0031
+ C= {Cpar}
+ K1=0.0000077
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=270
+ L_EL=29
+ L_F0=2200E6
+ PkZ=0
.ends 2712SP-10N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2712SP-12N
* Inductance = 12nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2712SP-12N_freq port1 port2 PARAMS: Cpar=0.25pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=10
+ R2=0.0034
+ C= {Cpar}
+ K1=0.0000099
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=270
+ L_EL=30.5
+ L_F0=1900E6
+ PkZ=0
.ends 2712SP-12N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2712SP-15N
* Inductance = 15nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2712SP-15N_freq port1 port2 PARAMS: Cpar=0.19pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=11.5
+ R2=0.0033
+ C= {Cpar}
+ K1=0.0000097
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=270
+ L_EL=31.8
+ L_F0=1600E6
+ PkZ=0
.ends 2712SP-15N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2712SP-18N
* Inductance = 18nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2712SP-18N_freq port1 port2 PARAMS: Cpar=0.178pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=5.7
+ R2=0.0035
+ C= {Cpar}
+ K1=0.0000121
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=270
+ L_EL=35.8
+ L_F0=1500E6
+ PkZ=0
.ends 2712SP-18N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2712SP-22N
* Inductance = 22nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2712SP-22N_freq port1 port2 PARAMS: Cpar=0.19pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=2.8
+ R2=0.0045
+ C= {Cpar}
+ K1=0.0000148
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=270
+ L_EL=40.8
+ L_F0=1400E6
+ PkZ=0
.ends 2712SP-22N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2712SP-27N
* Inductance = 27nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2712SP-27N_freq port1 port2 PARAMS: Cpar=0.148pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=7.6
+ R2=0.005
+ C= {Cpar}
+ K1=0.000019
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=270
+ L_EL=47
+ L_F0=1300E6
+ PkZ=0
.ends 2712SP-27N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2712SP-33N
* Inductance = 33nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2712SP-33N_freq port1 port2 PARAMS: Cpar=0.1pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=11.3
+ R2=0.0074
+ C= {Cpar}
+ K1=0.000019
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=250
+ L_EL=55.2
+ L_F0=1200E6
+ PkZ=0
.ends 2712SP-33N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2712SP-39N
* Inductance = 39nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2712SP-39N_freq port1 port2 PARAMS: Cpar=0.11pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=30.7
+ R2=0.0068
+ C= {Cpar}
+ K1=0.0000248
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=240
+ L_EL=63.3
+ L_F0=1100E6
+ PkZ=0
.ends 2712SP-39N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2712SP-47N
* Inductance = 47nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2712SP-47N_freq port1 port2 PARAMS: Cpar=0.061pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=125
+ R2=0.008
+ C= {Cpar}
+ K1=0.0000311
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=240
+ L_EL=76.3
+ L_F0=1100E6
+ PkZ=0
.ends 2712SP-47N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2712SP-51N
* Inductance = 51nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2712SP-51N_freq port1 port2 PARAMS: Cpar=0.052pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=140
+ R2=0.0093
+ C= {Cpar}
+ K1=0.0000283
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=516
+ L_EL=73.7
+ L_F0=2100E6
+ PkZ=0
.ends 2712SP-51N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2712SP-56N
* Inductance = 56nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2712SP-56N_freq port1 port2 PARAMS: Cpar=0.039pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=110
+ R2=0.0155
+ C= {Cpar}
+ K1=0.0000371
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=632
+ L_EL=66.7
+ L_F0=2100E6
+ PkZ=0
.ends 2712SP-56N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2712SP-68N
* Inductance = 68nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2712SP-68N_freq port1 port2 PARAMS: Cpar=0.053pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=130
+ R2=0.016
+ C= {Cpar}
+ K1=0.0000356
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=650
+ L_EL=82.7
+ L_F0=2200E6
+ PkZ=0
.ends 2712SP-68N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2712SP-82N
* Inductance = 82nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2712SP-82N_freq port1 port2 PARAMS: Cpar=0.095pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=85
+ R2=0.0147
+ C= {Cpar}
+ K1=0.0000481
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=650
+ L_EL=89.8
+ L_F0=2000E6
+ PkZ=0
.ends 2712SP-82N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2712SP-101
* Inductance = 100nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2712SP-101_freq port1 port2 PARAMS: Cpar=0.082pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=250
+ R2=0.019
+ C= {Cpar}
+ K1=0.0000607
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=650
+ L_EL=101
+ L_F0=1850E6
+ PkZ=0
.ends 2712SP-101_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2712SP-121
* Inductance = 120nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2712SP-121_freq port1 port2 PARAMS: Cpar=0.07pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=150
+ R2=0.0265
+ C= {Cpar}
+ K1=0.0000652
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=810
+ L_EL=108
+ L_F0=2050E6
+ PkZ=0
.ends 2712SP-121_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2712SP-151
* Inductance = 150nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2712SP-151_freq port1 port2 PARAMS: Cpar=0.08pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=120
+ R2=0.029
+ C= {Cpar}
+ K1=0.0000994
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=900
+ L_EL=124
+ L_F0=2100E6
+ PkZ=0
.ends 2712SP-151_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Aircore Inductor Model w/Rvar
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model3A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ L_Z0=1
+ L_EL=1
+ L_F0=1
G_Rvar1 Lin n001 LAPLACE { V(Lin, n001) } {1/(1e-6+({K1}*((s^2)/(-4*pi^2))^0.25))}
C1 N002 N001 {C}
R1 Lout N002 {R1}
T1 N001 0 N003 0 TD={(L_EL/360)/L_F0} Z0={L_Z0}
R2 Lout N003 {R2}
.ends Model3A






.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
